US06960611B2
2-amino-5-chloro-4′-chloro-benzophenone
A mixture of 21.0 g (0.135 mol) of p-chlorobenzoic acid and 20 ml of thionyl chloride were heated under reflux to give a clear solution. Removal of the excess of thionyl chloride under reduced pressure obtained white solid and immediately used for the next reaction. To the benzoyl chloride heated to 120° C. was added in portions with stirring 6.3 g (0.05 mol) of 4-chloroaniline. The mixture was heated to 180° C. and 8.5 g (0.063 mol) of ZnCl2 was added. The temperature was gradually increased to about 205° C. and kept there for 2 h. After cooling to 120° C., 60 ml of 3NHCl was added and the mixture stirred and heated to reflux. The hot acid layer was decanted and this procedure repeated two or three times. The water-insoluble residue was dissolved in 80 ml of 70% sulfuric acid and reflux for 8 h and then, after cooling poured into a large amount of ice water. The reaction mixture was neutralized with aqueous ammonia hydroxy and extracted with ethyl acetate, dried over Na2SO4. The solvent was removed and the residue was crystallized from 95% ethanol to give the title compound as golden yellow crystal 5.1 g, and yield 38.5%, m.p. 106-107° C.

reactant | p-chlorobenzoic acid | 0.135 mol, 21.0 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-chloroaniline | 0.05 mol, 6.3 g | ClC1=CC=C(N)C=C1 | C6H6ClN
catalyst | ZnCl2 | 0.063 mol, 8.5 g | [Cl-].[Cl-].[Zn+2]
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-amino-5-chloro-4′-chloro-benzophenone | 5.1 g, yield 38.5% | NC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
